US07989449B2
4-[3-(3-Methoxy-benzyloxy)-phenyl]-4-(4-methoxy-3-methyl-phenyl)-4,5-dihydro-oxazol-2-ylamine (example 168)
According to general method 2, a solution of iodine in ethyl acetate was added to a mixture of 1-methoxy-4-{1-[3-(3-methoxy-benzyloxy)-phenyl]-vinyl}-2-methyl-benzene (400 mg, 1.11 mmol) and silver cyanate in ethyl acetate/acetonitrile. The crude product of this reaction was subsequently reacted with aqueous ammonia (30% by vol). Purification by preparative HPLC yield 181 mg of product (39%).

reactant | iodine | II | I2
reactant | 1-methoxy-4-{1-[3-(3-methoxy-benzyloxy)-phenyl]-vinyl}-2-methyl-benzene | 1.11 mmol, 400 mg | COC1=C(C=C(C=C1)C(=C)C1=CC(=CC=C1)OCC1=CC(=CC=C1)OC)C | C24H24O3
reactant | ammonia | N | H3N
reactant | ethyl acetate acetonitrile | C(C)(=O)OCC.C(C)#N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | silver cyanate | [Ag]OC#N
product | 4-[3-(3-Methoxy-benzyloxy)-phenyl]-4-(4-methoxy-3-methyl-phenyl)-4,5-dihydro-oxazol-2-ylamine | COC=1C=C(COC=2C=C(C=CC2)C2(N=C(OC2)N)C2=CC(=C(C=C2)OC)C)C=CC1 | C25H26N2O4
